US05484786
To a suspension of palladium on carbon (1.5 g) in ethanol (30 mL) under N2 was added a solution of 4-[(3-benzyloxy-5-flourophenyl)oxomethyl]-tetrahydropyran (3.7 g, 12 mmol), prepared as in step 6, in ethanol (70 mL). The reaction mixture was flushed three times with hydrogen, was then stirred for three hours under positive hydrogen pressure. The reaction mixture was flushed with N2, filtered through a pad of celite, and concentrated in vacuo to yield 4-[(3-hydroxy-5-fluorophenyl)oxomethyl]tetrahydropyran (2.17 g, 81%) as a white powder which was used without further purification.

reactant | 4-[(3-benzyloxy-5-flourophenyl)oxomethyl]-tetrahydropyran | 12 mmol, 3.7 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)F)C(C1CCOCC1)=O | C19H19FO3
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | 4-[(3-hydroxy-5-fluorophenyl)oxomethyl]tetrahydropyran | 2.17 g, 81% | OC=1C=C(C=C(C1)F)C(C1CCOCC1)=O | C12H13FO3
